US20010047031A1
(3S)-4-[1-(2,2-Difluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol (0.25 g, 0.688 mmol) was dissolved in MeOH (20 ml), cooled to 0° C. and treated with oxone (0.21 g, 0.34 mmol). After 4 hours stirring at 0° C., reaction mixture was quenched with saturated NaHCO3 (65 ml). Aqueous phase was extracted with CH2Cl2 (3 times). Combined organic phases were dried over Na2SO4 and the solvent was evaporated. The residue was chromatographed by MPLC over silica gel (hexane-ethyl acetate, 98:2 to 50:50) to provide (3S, S-oxide R) or (3S, S-oxide S)-4-[1-(2,2-difluoro-4-phenyl-butyl)-pyrrolidine-3-sulfinyl]-phenol (140 mg, first fraction, 54%), MS: m/e=380.4 (M+H+).

reactant | (3S)-4-[1-(2,2-Difluoro-4-phenyl-butyl)-pyrrolidin-3-ylsulfanyl]-phenol | 0.688 mmol, 0.25 g | FC(CN1C[C@H](CC1)SC1=CC=C(C=C1)O)(CCC1=CC=CC=C1)F | C20H23F2NOS
reactant | oxone | 0.34 mmol, 0.21 g | OOS(=O)[O-].[K+]
solvent | MeOH | 20 ml | CO | CH4O
product | 4-[1-(2,2-difluoro-4-phenyl-butyl)-pyrrolidine-3-sulfinyl]-phenol | 140 mg, 54% | FC(CN1CC(CC1)S(=O)C1=CC=C(C=C1)O)(CCC1=CC=CC=C1)F | C20H23F2NO2S
